US08809538B2
Methyl 3-phenyl-1H-pyrazole-5-carboxylate Hydrochloride
3-Phenyl-1H-pyrazole-5-carboxylic acid (4.96 g) was suspended in methanol (80 mL) and concentrated hydrochloric acid (22.0 mL) and the reaction mixture heated at reflux overnight. Upon cooling the title compound (3.00 g) precipitated from the reaction mixture, was filtered and dried under vacuum. The material was used without further purification having the following physical data.

reactant | 3-Phenyl-1H-pyrazole-5-carboxylic acid | 4.96 g | C1(=CC=CC=C1)C1=NNC(=C1)C(=O)O | C10H8N2O2
reactant | hydrochloric acid | 22.0 mL | Cl | ClH
reactant | methanol | 80 mL | CO | CH4O
product | Methyl 3-phenyl-1H-pyrazole-5-carboxylate Hydrochloride | 3.00 g | Cl.C1(=CC=CC=C1)C1=NNC(=C1)C(=O)OC | InChI=1S/C11H10N2O2.ClH/c1-15-11(14)10-7-9(12-13-10)8-5-3-2-4-6-8;/h2-7H,1H3,(H,12,13);1H
